US04497651
56 parts of 3,7-dichloro-8-dichloromethylquinoline in 250 parts of 90% strength sulfuric acid were stirred at 100° C. for 6 hours. After cooling, the solution was poured onto ice and the precipitated solid was filtered off with suction, washed neutral with water and dried. 195 parts of 3,7-dichloroquinoline-8-carbaldehyde of melting point 208° C. were obtained. The yield corresponds to 87% of theory.

reactant | 3,7-dichloro-8-dichloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C(Cl)Cl | C10H5Cl4N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,7-dichloroquinoline-8-carbaldehyde | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
